US07238714B2
Step 3. Methyl 4-[(1S)-1-aminoethyl]benzoate hydrochloride
Methyl 4-{(1S)-1-[(tert-butoxycarbonyl)amino]ethyl}benzoate (12.83 g, 45.9 mmol) was treated with trifluoroacetic acid (100 mL) and dichloromethane (100 mL) at room temperature for 16 h. After removal of the solvent, the residue was diluted with 10% hydrogen chloride solution in methanol (100 mL). The mixture was concentrated under reduced pressure and the residue was washed with ethyl acetate to give 9.40 g (95%) of the title compounds as white solids: 1H-NMR (DMSO-d6) δ 8.67 (2H, br.s), 8.01 (2H, d, J=8.4 Hz), 7.68 (2H, d, J=8.4 Hz), 4.49 (1H, q, J=6.9 Hz), 3.87 (3H, s), 1.53 (3H, d, J=6.9 Hz).

reactant | Methyl 4-{(1S)-1-[(tert-butoxycarbonyl)amino]ethyl}benzoate | 45.9 mmol, 12.83 g | C(C)(C)(C)OC(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | C15H21NO4
reactant | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Methyl 4-[(1S)-1-aminoethyl]benzoate hydrochloride | 9.40 g, 95% | Cl.N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | InChI=1S/C10H13NO2.ClH/c1-7(11)8-3-5-9(6-4-8)10(12)13-2;/h3-7H,11H2,1-2H3;1H/t7-;/m0./s1
